US06716847B2
4-[3-Benzamido-4-fluoroanilino]-6,7,8-trimethoxyquinazoline hydrochloride
N-(2-Fluoro-5-aminophenyl)benzamide (276 mg) was added to a suspension of 4-chloro-6,7,8-trimethoxyquinazoline hydrochloride (293 mg) in isopropanol (8 ml) and the resultant mixture stirred and heated to 80° C. for 18 hours. The mixture was cooled to ambient temperature and the precipitated solid was isolated, washed with isopropanol then diethyl ether to yield the title compound as a solid (257 mg, 53%); NMR: 4.0 (s, 3H), 4.01 (s, 3H), 4.07 (s, 3H), 7.42 (t, 1H), 7.52 (m, 2H), 7.62 (m, 2H), 8.0 (m, 3H), 8.35 (s, 1H), 8.72 (s, 1H), 10.28 (s, 1H), 11.84 (broad s, 1H); m/s: M+H+ 449.

reactant | N-(2-Fluoro-5-aminophenyl)benzamide | 276 mg | FC1=C(C=C(C=C1)N)NC(C1=CC=CC=C1)=O | C13H11FN2O
reactant | 4-chloro-6,7,8-trimethoxyquinazoline hydrochloride | 293 mg | Cl.ClC1=NC=NC2=C(C(=C(C=C12)OC)OC)OC
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | 4-[3-Benzamido-4-fluoroanilino]-6,7,8-trimethoxyquinazoline hydrochloride | 257 mg, 53% | Cl.C(C1=CC=CC=C1)(=O)NC=1C=C(NC2=NC=NC3=C(C(=C(C=C23)OC)OC)OC)C=CC1F | InChI=1S/C24H21FN4O4.ClH/c1-31-19-12-16-20(22(33-3)21(19)32-2)26-13-27-23(16)28-15-9-10-17(25)18(11-15)29-24(30)14-7-5-4-6-8-14;/h4-13H,1-3H3,(H,29,30)(H,26,27,28);1H
